US04247549
Synthesis of 1-(1,1-dimethylethoxycarbonyl)4-phenylmethylpiperazine
A solution of 3.4 g (0.024 mole) of 1,1-dimethylethoxy carbonylazide in 5 ml of pyridine was rapidly added to a stirred solution of 1-phenylmethylpiperazine (4.2 g, 0.024 mole) in 5 ml of pyridine. An initial exothermic reaction was noted. The mixture was allowed to stir overnight, diluted with water and the product was extracted with two 50 ml portions of ether. The ether extracts were dried (MgSO4), filtered, and evaporated to yield a yellow oil. Column chromatography (2" diameter column, 500 g of silica gel, ether eluent) followed by sublimation at 110°/0.5 mm returned 5.7 g (86%) of white solid, m.p. 64°-73°. The solid was dissolved in 50 ml of ether and cooled to -70°. The resultant white solid was filtered off to yield 4.5 g (68%) of product, m.p. 71-3°. Calc. for C16H24N2O2 (276.38): C, 69.53; H, 8.75; N, 10.14. Found: C, 69.44; H, 8.82; N, 10.15.

reactant | 1,1-dimethylethoxy carbonylazide | 0.024 mole, 3.4 g | CC(C)(OC(=O)N=[N+]=[N-])C | C5H9N3O2
reactant | 1-phenylmethylpiperazine | 0.024 mole, 4.2 g | C1(=CC=CC=C1)CN1CCNCC1 | C11H16N2
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
solvent | ether | 50 ml | CCOCC | C4H10O
product | 1-(1,1-dimethylethoxycarbonyl)4-phenylmethylpiperazine | 4.5 g, 68% | CC(C)(OC(=O)N1CCN(CC1)CC1=CC=CC=C1)C | C16H24N2O2
